US04176184
7,7-Dimethyl-2-(2-methoxy-4-methylmercapto-phenyl)-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochoride
Prepared analogously to Example 23 from 2.9 gm of 7,7-dimethyl-2-(2-methoxy-4-methylmercapto-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride and 2 gm of 2-diethylamino-ethyl bromide hydrobromide.

reactant | 7,7-dimethyl-2-(2-methoxy-4-methylmercapto-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride | 2.9 gm | Cl.CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=C(C=C(C=C3)SC)OC)C
reactant | 2-diethylamino-ethyl bromide hydrobromide | 2 gm | Br.C(C)N(CCBr)CC
product | 7,7-Dimethyl-2-(2-methoxy-4-methylmercapto-phenyl)-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochoride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCN(CC)CC)=O)=NC(=N3)C3=C(C=C(C=C3)SC)OC)C | InChI=1S/C26H32N4O3S.2ClH/c1-7-30(8-2)12-11-17-20-18(14-27-26(3,4)24(20)32)21-22(23(17)31)29-25(28-21)16-10-9-15(34-6)13-19(16)33-5;;/h9-10,13-14,17,20H,7-8,11-12H2,1-6H3;2*1H
